US09428528B2
Step 1 Preparation of (4S,5R)-tert-butyl 4-(fluoromethyl)-2,2-dimethyl-5-(4-((trimethylsilyl)ethynyl)phenyl)oxazolidine-3-carboxylate
To a toluene (40 ml) solution of (4S,5R)-tert-butyl 4-(fluoromethyl)-5-(4-iodophenyl)-2,2-dimethyloxazolidine-3-carboxylate (2.0 g, 4.6 mmols) is added ethynyltrimethylsilane (451 mg, 4.6 mmols), copper (I)iodide (88 mg, 0.46 mmols, 0.1 equivs), Bis(triphenylphosphine)palladium(II) dichloride (165 mg, 0.23 mmols, 0.05 equivs) and piperidine (782 mg, 9.2 mmols, 2 equivs). The mixture is heated in an atmosphere of nitrogen at 35° C. for six hours. The mixture is filtered through a pad of Celite. The pad of Celite is washed with ethylacetate (2×15 ml). The combined organic filtrates were concentrated using rotary evaporation at reduced pressure to give a crude viscous oil. The oil is purified by flash column chromatography (grading from 100% hexanes to 15% EtOAc) to give the title compound (1.65 g): m/z (CI) 306 ([M+H]+−Boc).

reactant | (4S,5R)-tert-butyl 4-(fluoromethyl)-5-(4-iodophenyl)-2,2-dimethyloxazolidine-3-carboxylate | 4.6 mmols, 2.0 g | FC[C@H]1N(C(O[C@@H]1C1=CC=C(C=C1)I)(C)C)C(=O)OC(C)(C)C | C17H23FINO3
reactant | ethynyltrimethylsilane | 4.6 mmols, 451 mg | C(#C)[Si](C)(C)C | C5H10Si
reactant | piperidine | 9.2 mmols, 782 mg | N1CCCCC1 | C5H11N
catalyst | copper (I)iodide | 0.46 mmols, 88 mg | [Cu]I
catalyst | Bis(triphenylphosphine)palladium(II) dichloride | 0.23 mmols, 165 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
product | (4S,5R)-tert-butyl 4-(fluoromethyl)-2,2-dimethyl-5-(4-((trimethylsilyl)ethynyl)phenyl)oxazolidine-3-carboxylate | 1.65 g | FC[C@H]1N(C(O[C@@H]1C1=CC=C(C=C1)C#C[Si](C)(C)C)(C)C)C(=O)OC(C)(C)C | C22H32FNO3Si
